US04649150
N-Cyano-N'-[4-(2-methyl-imidazol-4-yl)phenyl]-formamidine
A solution of 2-methyl-4-(4-amino-phenyl)-1H-imidazole (15 g) and ethyl N-cyanoformimidate (9.35 g) in ethanol (150 ml) was stirred at room temperature overnight. The product which crystallized out was collected by filtration, washed with cold ethanol and dried to give 15.2 g of the title compound.

reactant | 2-methyl-4-(4-amino-phenyl)-1H-imidazole | 15 g | CC=1NC=C(N1)C1=CC=C(C=C1)N | C10H11N3
reactant | ethyl N-cyanoformimidate | 9.35 g | C(#N)N=COCC | C4H6N2O
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | N-Cyano-N'-[4-(2-methyl-imidazol-4-yl)phenyl]-formamidine | 15.2 g | C(#N)NC=NC1=CC=C(C=C1)C=1N=C(NC1)C | C12H11N5
